US06310070B1
2.2 g (10 mmol) of 4-amino-1-benzyl-5-imidazole carboxamide prepared in Reference Example 2 was dissolved in 200 ml of N,N-dimethylformamide. 2.1 ml (15 mmol) of triethylamine and 1.06 ml (15 mmol) of acetyl chloride were added to the mixture while cooling with ice, followed by stirring overnight. The reaction product was concentrated under vacuum to obtain a crude product, which was recrystallized from hot methanol to obtain 0.86 g of 4-acetylamino-1-benzyl-5-imidazolecarboxamide (yield 33%).

reactant | 4-amino-1-benzyl-5-imidazole carboxamide | 10 mmol, 2.2 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
reactant | triethylamine | 15 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 15 mmol, 1.06 ml | C(C)(=O)Cl | C2H3ClO
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-acetylamino-1-benzyl-5-imidazolecarboxamide | 0.86 g, yield 33% | C(C)(=O)NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C13H14N4O2
